US06214331B1
TRITON X-102 (an octylphenoxy polyethoxy ethanol, HLB 14.6, available commercially from Union Carbide) in 9:1 water-emulsifier ratio did not invert the emulsion; TRITON N-101 (an nonylphenoxy polyethoxy ethanol, HLB 13.4, Union Carbide) gave similar results; TRITON X-405 (HLB 17.9) and TRITON X-305 (HLB 17.3) gave separation into two layers. Optical microscopy showed there was no flocculation with TRITON X-102 OR TRITON N-101, slight flocculation with TRITON X-405, and much more flocculation with the TRITON X-305.

reactant | octylphenoxy polyethoxy ethanol | CC(C)(C)CC(C)(C)C1=CC=C(C=C1)OCCO | C16H26O2
solvent | water | O | H2O
product | nonylphenoxy polyethoxy ethanol | CCCCCCCCCC1=CC=C(C=C1)OCCO | C17H28O2
